US09145441B2
Compound 111a (R)-2-Methyl-propane-2-sulfinic acid [1-(7-bromo-quinolin-2-yl)-eth-(E)-ylidene]-amide
To a solution of 1-(7-bromo-quinolin-2-yl)-ethanone (1.42 g, 5.68 mmol) in THF (28 mL) was added titanium (IV) ethoxide (2.6 g, 2.35 mL, 11.4 mmol, tech. grade) followed by (R)-(+)-2-methyl-propanesulfinamide (825 mg, 6.82 mmol). The reaction mixture was stirred at 60° C. under nitrogen for 6 hours and allowed to cool. Brine was added followed by ethyl acetate and the suspension filtered through celite and the filter pad was washed with ethyl acetate. The ethyl acetate layer was separated, dried over sodium sulphate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexane/ethyl acetate 9:1 to 3:1 to give the title compound (448 mg, 22%) as an orange solid. 1H NMR (300 MHz, CDCl3) δ 1.38 (s, 9H), 2.99 (s, 3H), 7.71 (m, 2H), 8.16 (d, J=8.6 Hz, 1H), 8.24 (d, J=8.6 Hz, 1H), 8.37 (s, 1H). LCMS (m/z) 352.9/354.9 [M+H], Tr 3.14 minutes.

reactant | 1-(7-bromo-quinolin-2-yl)-ethanone | 5.68 mmol, 1.42 g | BrC1=CC=C2C=CC(=NC2=C1)C(C)=O | C11H8BrNO
reactant | (R)-(+)-2-methyl-propanesulfinamide | 6.82 mmol, 825 mg | CC(C[S@@](=O)N)C | C4H11NOS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 28 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
catalyst | titanium (IV) ethoxide | 11.4 mmol, 2.35 mL, 2.6 g | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (R)-2-Methyl-propane-2-sulfinic acid [1-(7-bromo-quinolin-2-yl)-eth-(E)-ylidene]-amide | 448 mg, 22% | BrC1=CC=C2C=CC(=NC2=C1)\C(\C)=N\[S@](=O)C(C)(C)C | C15H17BrN2OS
